US05360802
Step 1: 1-(1,1-Dimethylethyloxycarbonyl)-2-((3-nitrophenyl)ethen-2-yl)imidazole
A suspension of 3-nitrobenzyl bromide (10 g, 46 mmol) in acetonltrile (100 ml) was added to a solution of triphenylphosphine (13.3 g, 51 mmol) in acetonitrile (150 ml). The resulting suspension was heated at reflux (15 min), cooled and 15.5 g of (3-nitrobenzyl)triphenylphosphonium bromide was obtained by filtration. A mixture of this compound (10 g, 21 mmol) and imidazole-2-carboxaldehyde (2 g, 21 mmol) was heated at reflux in ethanol (200 ml) and a solution of sodium ethoxide in ethanol (sodium (480 mg, 21 mmol; ethanol (100 ml)) was added dropwise over 2 h. After a further 3 h at reflux the solution was cooled, filtered and the solvent evaporated. The residue was taken up in 2M HCl (50 ml). The aqueous phase was washed with diethyl ether (3×50 ml), basified with 1N sodium hydroxide solution and the product extracted into diethyl ether (3×50 ml). The organic phase was dried (NaSO4) and evaporated to afford 4 g of a crude cis/trans mixture of 2-((3-nitrophenyl)ethen-2-yl)imidazole as a yellow solid. This material (1.75 g, 8.14 mmol) was dissolved in a mixture of dichloromethane (40 ml) and acetonitrile (40 ml) and di-t-butyl dicarbonate (2.13 g, 9.8 mmol) was added. After 48 h at room temperature the solvent was evaporated and the residue chromatographed on silica gel with ethyl acetate:petrol (bp 60°-80°) (1:1) as eluant to afford 1.7 g of a cis/trans mixture of the titled compound as a yellow oil. 1H NMR (250 MHz, CDCl3) δ 1.64 and 1.70 (9H, 2s), 6.72-8.50 (8H).

reactant | imidazole-2-carboxaldehyde | 21 mmol, 2 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 21 mmol, 100 ml, 480 mg | [Na] | Na
reactant | 2-((3-nitrophenyl)ethen-2-yl)imidazole | [N+](=O)([O-])C=1C=C(C=CC1)C(=C)C=1NC=CN1 | C11H9N3O2
reactant | di-t-butyl dicarbonate | 9.8 mmol, 2.13 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 1-(1,1-Dimethylethyloxycarbonyl)-2-((3-nitrophenyl)ethen-2-yl)imidazole | 1.7 g | CC(C)(OC(=O)N1C(=NC=C1)C(=C)C1=CC(=CC=C1)[N+](=O)[O-])C | C16H17N3O4
